US05231102
e) Cis-4-aminocarbonyl-2-carboxy-5,7-dichloro-1,2,3,4-tetrahydroquinoline
Cis-4-aminocarbonyl-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline (0.12 g) was dissolved in 50% aqueous methanol (20 ml) and 1N sodium hydroxide solution (0.6 ml) was added. The reaction mixture was stirred at room temperature for 14 h then the solvents were evaporated in vacuo to leave a residue which was redissolved in water (20 ml) and acidified to pH 1 with concentrated hydrochloric acid. The aqueous solution was extracted with ethyl acetate (3×40 ml), dried (Na2SO4), filtered and concentrated under vacuum to give an off white solid which was triturated with diethyl ether and collected by filtration to give the title compound (0.082 g, m.p. 220°-222° C.); δ (360 MHz, DMSO) 2.28 (2H, m, CHACHBHCCHD), 3.71 (1H, m, CHACHBHCCHD), 3.89 (1H, m, CHACHBHCCHD), 6.62 (1 H, d, J=2.1 Hz, 6-H or 8-H), 6.64 (1H, br, s, NH), 6.74 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.81 (1H, s, br, NH), 7.26 (1H, s, br, NH); m/e (FAB) 289 (M+1); Found: C, 44.84; H, 3.67; N, 8.95. C11H10Cl2N2O3.0.4H2O requires C, 44.59; H, 3.67; N, 9.45%.

reactant | Cis-4-aminocarbonyl-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | 0.12 g | NC(=O)[C@@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C12H12Cl2N2O3
reactant | sodium hydroxide | 1N, 0.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | Cis-4-aminocarbonyl-2-carboxy-5,7-dichloro-1,2,3,4-tetrahydroquinoline | 0.082 g | NC(=O)[C@@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C11H10Cl2N2O3
